US04789750
Preparation of (2RS)-3-Oxo-4-[3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran-2-yl]butanoic acid (1RS,2E,5R)-1,5,9-trimethyl-2-decenyl ester
A solution of 2.40 g (5.0 mmol) of Meldrum's acid adduct i.e. rac.-5-[2-[3,4-dihydro-2,5,7,8-tetramethyl-6-phenylmethoxy-2H-1-benzopyran-2-yl]-1-hydroxyethylidene]-2,2-dimethyl-1,3-dioxane-4,6-dione and 1.19 g (6.0 mmol) of alcohol (2RS,3E,6R)-6,10-dimethyl-3-undecen-2-ol in 4 mL of dry toluene was degassed by 3 cycles of evacuating/purging with argon and then heated under argon to 100° C. CO2 evolution started at ca 90° C. and ceased after ca. 30 minutes. The light yellow solution was stirred for another 2 hours at 100° C. The cooled solution was diluted with hexane, washed with water, sat. NaHCO3 solution and brine, dried over Na2SO4, filtered and evaporated to leave 3.6 g of a brown oil. Chromatography on 250 g of silica gel (hexane/ethyl acetate 5%-6%) afforded 2.33 g (81 %) of [2R,S)-3-oxo-4-[3,4-dihydro-2,5,7,8-tetramethylβ-oxo-6-(phenylmethoxy)-2H-1-benzopyran-2-yl-butanoic acid-1,5,9-trimethyl-2-decenyl ester as a colorless very viscous oil.

reactant | Meldrum's acid | 5.0 mmol, 2.40 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | rac.-5-[2-[3,4-dihydro-2,5,7,8-tetramethyl-6-phenylmethoxy-2H-1-benzopyran-2-yl]-1-hydroxyethylidene]-2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)CC(O)=C2C(OC(OC2=O)(C)C)=O | C28H32O7
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (2RS)-3-Oxo-4-[3,4-dihydro-2,5,7,8-tetramethyl-6-(phenylmethoxy)-2H-1-benzopyran-2-yl]butanoic acid (1RS,2E,5R)-1,5,9-trimethyl-2-decenyl ester | 3.6 g | CC(\C=C\C[C@@H](CCCC(C)C)C)OC(CC(CC1(OC2=C(CC1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C)C)=O)=O | C37H52O5
